US04033845
4-[(6-bromo-4-oxo-4H-1-benzopyran-2-yl)ethenyl]benzonitrile
A mixture of 3.9 g of 5'-bromo-2'-hydroxy-2-(methylsulfinyl)acetophenone, 2.2 g of p-cyanocinnamaldehyde, 50 ml of toluene and 0.1 ml of piperidine was refluxed for 4 hrs. The mixture was chilled, and the precipitate was filtered and recystallized from DMF, mp 275°-76° ; yield 1 g (20%); λ max mμ (ε) 223 (22,700), 273 (12,900), 330 (41,000); ν max 840 (m), 980 (m), 1280 (m), 1640 (m), 1660 (ms), 2240 (m) cm-1.

reactant | 5'-bromo-2'-hydroxy-2-(methylsulfinyl)acetophenone | 3.9 g | BrC=1C=CC(=C(C1)C(CS(=O)C)=O)O | C9H9BrO3S
reactant | p-cyanocinnamaldehyde | 2.2 g | C(#N)C1=CC=C(C=CC=O)C=C1 | C10H7NO
reactant | piperidine | 0.1 ml | N1CCCCC1 | C5H11N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[(6-bromo-4-oxo-4H-1-benzopyran-2-yl)ethenyl]benzonitrile | BrC=1C=CC2=C(C(C=C(O2)C=CC2=CC=C(C#N)C=C2)=O)C1 | C18H10BrNO2
